US04153699
Carbon disulphide (65 cc) is added to a suspension of (RS)-2-hydroxysulphonyloxymethylindoline (45.8 g) in 1.5 N aqueous sodium hydroxide solution (400 cc). After stirring for 2 hours at a temperature of about 20° C., a solution is obtained and the formation of beige crystals is then observed; stirring is continued for 12 hours. The crystals formed are filtered off, washed with water and then recrystallised from ethanol (850 cc). (RS)-9,9a-dihydrothiazolo[3,4-a]indole-3-thione (31.3 g) is thus obtained in the form of white crystals melting at 132° C.

reactant | Carbon disulphide | 65 cc | C(=S)=S | CS2
reactant | (RS)-2-hydroxysulphonyloxymethylindoline | 45.8 g | OS(=O)(=O)OCC1NC2=CC=CC=C2C1 | C9H11NO4S
solvent | sodium hydroxide | 1.5 N, 400 cc | [OH-].[Na+]
product | (RS)-9,9a-dihydrothiazolo[3,4-a]indole-3-thione | 31.3 g | C1SC(N2C1CC=1C=CC=CC21)=S | C10H9NS2
